US07015328B2
Substituted 2-hydroxybenzophenones may be prepared as illustrated by exemplary reaction in Scheme 8. Reaction of 3-methoxyphenol with 3-methoxybenzoic acid in the presence of Al2O3 and CH3SO3H produces 2-hydroxy-4-methoxy-3′-methoxy-benzophenone.

reactant | 3-methoxyphenol | COC=1C=C(C=CC1)O | C7H8O2
reactant | 3-methoxybenzoic acid | COC=1C=C(C(=O)O)C=CC1 | C8H8O3
reactant | CH3SO3H | CS(=O)(=O)O | CH4O3S
product | 2-hydroxy-4-methoxy-3′-methoxy-benzophenone | OC1=C(C(=O)C2=CC(=CC=C2)OC)C=CC(=C1)OC | C15H14O4
